US06333324B1
A solution of (2R,5R)-1-benzyl-2-benzyloxymethyl-5-(2-methylpropyl)piperazine (7.0 g) and di-tert-butyl dicarbonate (5.2 g) in CH2Cl2 (50 ml) was stirred at ambient temperature for 3 hours. The solvent was evaporated in vacuo and the residue was purified by SiO2 column chromatography (eluent: CHCl3/n-hexane=1/1, then CHCl3) to give 8.1 g of (2R,5R)-1-benzyl-2-benzyloxymethyl-4-(tert-butoxycarbonyl)-5-(2-methylpropyl)piperazine as an oil.

reactant | (2R,5R)-1-benzyl-2-benzyloxymethyl-5-(2-methylpropyl)piperazine | 7.0 g | C(C1=CC=CC=C1)N1[C@H](CN[C@@H](C1)CC(C)C)COCC1=CC=CC=C1 | C23H32N2O
reactant | di-tert-butyl dicarbonate | 5.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (2R,5R)-1-benzyl-2-benzyloxymethyl-4-(tert-butoxycarbonyl)-5-(2-methylpropyl)piperazine | 8.1 g | C(C1=CC=CC=C1)N1[C@H](CN([C@@H](C1)CC(C)C)C(=O)OC(C)(C)C)COCC1=CC=CC=C1 | C28H40N2O3
